US07618970B2
tert-Butyl [(1R,3S)-3-(2-Methoxyethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate
(1S,3R)-3-[(tert-Butoxycarbonyl)amino]- 1 -(2-methoxyethyl)cyclopentanecarboxylic acid (276.6 mg, 0.96 mmol) , 1-[4-(trifluoromethyl)pyridin-2-yl]piperazine dihydrochloride (322.0 mg, 1.06 mmol) , triethylamine (0.54 mL, 3.85 mmol) and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (547.6 mg, 1.44 mmol) (HBTU) were mixed in dry DMF (6.6 mL) and the resultanting brown solution was stirred at room temperature under N2 for three days. The reaction mixture was diluted with CH2Cl2, and washed with saturated Na2CO3. The aqueous layer was extracted with CH2Cl2 four times. The combined organic layers were dried (MgSO4), filtered, concentrated and purified by flash chromatography (EtOAc/Hexane) to provide the desired product (252 mg, 52%). MS calculated for C24H36F3N4O4(M+H) 501.3; found 401.3 (M+H-Boc).

reactant | (1S,3R)-3-[(tert-Butoxycarbonyl)amino]- 1 -(2-methoxyethyl)cyclopentanecarboxylic acid | 0.96 mmol, 276.6 mg | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)CCOC | C14H25NO5
reactant | 1-[4-(trifluoromethyl)pyridin-2-yl]piperazine dihydrochloride | 1.06 mmol, 322.0 mg | Cl.Cl.FC(C1=CC(=NC=C1)N1CCNCC1)(F)F
reactant | triethylamine | 3.85 mmol, 0.54 mL | C(C)N(CC)CC | C6H15N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.44 mmol, 547.6 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 6.6 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-Butyl [(1R,3S)-3-(2-Methoxyethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 252 mg, 52% | COCC[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C24H35F3N4O4
